US07439354B2
Preparation of 2,6-dimethyl-7a-undecyl-tetrahydro-2H-oxazolo[2,3-b]oxazole.
In a first stage to a reactor, equipped with a distillation column, condenser, and graduated receiver, 199.8 g (1.5 mol) of diisopropanol amine (DIPA) and 7.5 g of CH3ONa (30% in methanol) were added and the batch heated to 75° C. 160.5 g (0.75 mol) of methyl laurate were added during 2 hours at 75° C. Temperature was gradually increased during 3 hours. Methanol has been removed at lower pressure 26,660 Pa) and at 120° C. and excess of DIPA has been removed at a pressure below 133 Pa and at 140° C. The so prepared amide looked as yellow fat (melting temperature of above 130° C). In a second stage 0.5 weight % of zinc acetate, based on the intermediate product after stage 1 were added and the batch was heated at 180° C. for 6 hours. Fraction distillation has been done at a pressure below 133 Pa. Three fractions were obtained: I) with boiling point <105° C.; amount above 5 weight %; mainly DIPA; II) with boiling point 105-145° C.; amount 50 weight %; amide acetal (purity 90%) and III) 45 weight %—distillation rest. The yield of amide acetal calculated on methyl laurate was 43%. Initial color and color stability during storage (on shelf) of an amide acetal prepared according to the invention and a comparative amide acetal prepared from nitriles have been evaluated. The amide acetal according to the invention shows a better initial color and better color stability than the amide acetal prepared from nitrites.

reactant | diisopropanol amine | 1.5 mol, 199.8 g | CC(CNCC(C)O)O | C6H15NO2
reactant | CH3ONa | 7.5 g | CO[Na]
reactant | methyl laurate | 0.75 mol, 160.5 g | C(CCCCCCCCCCC)(=O)OC | C13H26O2
catalyst | zinc acetate | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | 2,6-dimethyl-7a-undecyl-tetrahydro-2H-oxazolo[2,3-b]oxazole | CC1CN2C(OC(C2)C)(O1)CCCCCCCCCCC | C18H35NO2
